US05565567
Procedure for the Synthesis of Phthalic Piperazine Amide Acid
Into a 3 liter, four necked round bottom flask fitted with mechanical stirring, dry nitrogen and a reflux condenser were charged 129.2 grams piperazine, 750 ml dichloromethane, 750 ml acetonitrile, and 6.1 grams dimethylaminopyridine. To this mixture was added portion-wise 222.2 g phthalic anhydride. Following the addition, the mixture was refluxed for 3 hours, at the end of which period no residual anhydride was present by infrared analysis. The solvent was decanted from the solid product precipitate.

reactant | piperazine | 129.2 grams | N1CCNCC1 | C4H10N2
reactant | dichloromethane | 750 ml | ClCCl | CH2Cl2
reactant | dimethylaminopyridine | 6.1 grams | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | phthalic anhydride | 222.2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetonitrile | 750 ml | C(C)#N | C2H3N
product | Piperazine Amide | N1(CCNCC1)C(=O)N | C5H11N3O
